US08492582B2
1-(2-Hydroxyethyl)pyrrolidine (0.016 mL), triphenylphosphine (0.038 g), and diisopropyl azodicarboxylate (0.029 mL) were added to a tetrahydrofuran (1.2 mL) solution of tert-butyl 2-(2-(benzyloxy)-5-hydroxybenzamido)-4-phenylbenzoate (0.060 g), followed by stirring at room temperature for 25 minutes. To the reaction mixture, 1-(2-hydroxyethyl)pyrrolidine (0.016 mL), triphenylphosphine (0.038 g), and diisopropyl azodicarboxylate (0.029 mL) were added, followed by stirring at room temperature for 20 minutes. To the reaction mixture, 1-(2-hydroxyethyl)pyrrolidine (0.016 mL), triphenylphosphine (0.038 g), and diisopropyl azodicarboxylate (0.029 mL) were added, followed by stirring at room temperature for 30 minutes. To the reaction mixture, 1-(2-hydroxyethyl)pyrrolidine (0.016 mL), triphenylphosphine (0.038 g), and diisopropyl azodicarboxylate (0.029 mL) were added, followed by stirring at room temperature for 1 hour. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography [eluent: 80-0% hexane/ethyl acetate] to obtain 0.071 g of tert-butyl 2-(2-(benzyloxy)-5-(2-(pyrrolidin-1-yl)ethoxy)benzamido)-4-phenylbenzoate.

reactant | 1-(2-Hydroxyethyl)pyrrolidine | 0.016 mL | OCCN1CCCC1 | C6H13NO
reactant | triphenylphosphine | 0.038 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.029 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | tert-butyl 2-(2-(benzyloxy)-5-hydroxybenzamido)-4-phenylbenzoate | 0.060 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)O | C31H29NO5
reactant | 1-(2-hydroxyethyl)pyrrolidine | 0.016 mL | OCCN1CCCC1 | C6H13NO
reactant | triphenylphosphine | 0.038 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.029 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 1-(2-hydroxyethyl)pyrrolidine | 0.016 mL | OCCN1CCCC1 | C6H13NO
reactant | triphenylphosphine | 0.038 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.029 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 1-(2-hydroxyethyl)pyrrolidine | 0.016 mL | OCCN1CCCC1 | C6H13NO
reactant | triphenylphosphine | 0.038 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.029 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 1.2 mL | O1CCCC1 | C4H8O
product | tert-butyl 2-(2-(benzyloxy)-5-(2-(pyrrolidin-1-yl)ethoxy)benzamido)-4-phenylbenzoate | 0.071 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)OCCN1CCCC1 | C37H40N2O5
